* ============================================================
* BIOPOTENTIAL CHAIN - PRE-LAYOUT GOLDEN (IHP SG13G2)
* BioDiff core idealizado (sem PEX) -> LPF -> ADC
* ============================================================

.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

.option TEMP=27
.option warn=1
.option method=gear

* ------------------------------------------------------------
* Pre-layout core (sem parasitas extraidos)
* ------------------------------------------------------------
.subckt biodiff_top_pre VIN_N VIN_P VOUT_N VOUT_P VDD TAIL VSS
X0 TAIL VIN_P VOUT_P VSS sg13_lv_nmos ad=0.64p pd=3.2u as=0.64p ps=3.2u w=3.2u l=0.8u
X1 VOUT_N VIN_N TAIL VSS sg13_lv_nmos ad=0.64p pd=3.2u as=0.64p ps=3.2u w=3.2u l=0.8u
XLOAD_N VDD VOUT_N VSS rhigh l=10u w=2u
XLOAD_P VDD VOUT_P VSS rhigh l=10u w=2u
.ends

* ------------------------------------------------------------
* Stimulus and signal chain
* ------------------------------------------------------------
VDD_SRC VDD 0 1.8
VINP_SRC VIN_P 0 DC 0.9 AC 0.5 SIN(0.9 25m 1k 0 0 0)
VINN_SRC VIN_N 0 DC 0.9 AC -0.5 SIN(0.9 25m 1k 0 0 180)
ITAIL_SRC TAIL 0 DC 20u

XBIODIFF VIN_N VIN_P VOUT_N VOUT_P VDD TAIL 0 biodiff_top_pre

RLPF_SP VOUT_P VLPF 1.33Meg
CLPF_SP VLPF 0 1n
XADC_P_SP DOUT VLPF VDD VDD sg13_lv_pmos w=4u l=0.35u
XADC_N_SP DOUT VLPF 0 0 sg13_lv_nmos w=2u l=0.35u
XBUF_P_SP DOUT_BUF DOUT VDD VDD sg13_lv_pmos w=8u l=0.35u
XBUF_N_SP DOUT_BUF DOUT 0 0 sg13_lv_nmos w=4u l=0.35u

.control
save all

* 1) OP
op
print V(VDD) V(VIN_P) V(VIN_N) V(VOUT_P) V(VOUT_N) V(VLPF) V(DOUT)

* 2) AC
ac dec 200 1 100Meg
let vdiff_in  = abs(v(vin_p)-v(vin_n))
let vdiff_out = abs(v(vout_p)-v(vout_n))
let av_core   = vdiff_out/vdiff_in
let av_lpf    = abs(v(vlpf))/vdiff_in

meas ac Av_CORE_1kHz    find av_core at=1k
meas ac Av_CORE_10kHz   find av_core at=10k
meas ac Av_LPF_100Hz    find av_lpf  at=100
let av_lpf_3db = Av_LPF_100Hz*0.707
meas ac f3dB_LPF when av_lpf=av_lpf_3db fall=1

echo === PRELAYOUT AC ===
echo Av_CORE_1kHz_VV:  $&Av_CORE_1kHz
echo Av_CORE_10kHz_VV: $&Av_CORE_10kHz
echo Av_LPF_100Hz_VV:  $&Av_LPF_100Hz
echo f3dB_LPF_Hz:      $&f3dB_LPF

* 3) TRAN
tran 1u 20m
meas tran VOUTP_MAX max v(vout_p) from=5m to=20m
meas tran VOUTP_MIN min v(vout_p) from=5m to=20m
meas tran VLPF_MAX  max v(vlpf)   from=5m to=20m
meas tran VLPF_MIN  min v(vlpf)   from=5m to=20m
let swing_voutp = VOUTP_MAX - VOUTP_MIN
let swing_vlpf  = VLPF_MAX - VLPF_MIN

* 4) POWER
let PWR_INST = abs(i(VDD_SRC))*1.8
meas tran PAVG avg PWR_INST from=5m to=20m
echo Potencia_media_W: $&PAVG

write biopotential_chain_prelayout.raw
.endc

.end
